US06683201B2
A solution of 1.45 g (4.58 mmol) of [4-(5-Dimethylamino-pent-1-ynyl)-phenyl]-methyl-carbamic acid tert-butyl ester in 25 ml CH2Cl2 was treated at 0° C. with 11.5 ml TFA (during 20 min) and warmed up to room temperature during 1 h. The solution was concentrated and the residual oil was extracted with aqueous sat. NaHCO3 (+Na2CO3)/EtOAc (3×). The organic phase was dried (Na2SO4) and evaporated to yield 1.05 g (quantitative) of [4-(5-Dimethylamino-pent-1-ynyl)-phenyl]-methyl-amine MS: 217 (MH+).

reactant | [4-(5-Dimethylamino-pent-1-ynyl)-phenyl]-methyl-carbamic acid tert-butyl ester | 4.58 mmol, 1.45 g | C(C)(C)(C)OC(N(C)C1=CC=C(C=C1)C#CCCCN(C)C)=O | C19H28N2O2
reactant | TFA | 11.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
product | [4-(5-Dimethylamino-pent-1-ynyl)-phenyl]-methyl-amine | 1.05 g | CN(CCCC#CC1=CC=C(C=C1)NC)C | C14H20N2
